US04436662
In one portion, 2.0 g (5.8) mmol) of 8-chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine were added to an ice-cooled solution of 0.8 g (7.1 mmol) of potassium t-butoxide in 20 ml of dry dimethylformamide. After stirring at 0° C. for 10 minutes, 0.8 ml (12.8 mmol) of methyl iodide was added and the resulting solution was stirred for 20 minutes. The mixture was diluted with water, and the resulting precipitate was collected by filtration. The solid was dissolved in methylene chloride, dried over anhydrous sodium sulfate, and concentrated at reduced pressure to give 8-chloro-6-(2-chlorophenyl)-1,2-dimethyl-2H,4H-pyrrolo[3,4-d][2]benzazepine as orange prisms, mp 200°-202° C. A sample was recrystallized from a mixture of ether and methylene chloride to give pale yellow prisms, mp 203°-204° C.

reactant | 8-chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=CNC3C)C=C1 | C19H14Cl2N2
reactant | potassium t-butoxide | 7.1 mmol, 0.8 g | CC(C)([O-])C.[K+]
reactant | methyl iodide | 12.8 mmol, 0.8 ml | CI | CH3I
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 8-chloro-6-(2-chlorophenyl)-1,2-dimethyl-2H,4H-pyrrolo[3,4-d][2]benzazepine | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=CN(C3C)C)C=C1 | C20H16Cl2N2
